US06825191B2
Step 1: Synthesis of ethyl[2-nitro-4-(trifluoromethyl)benzyl]-aminoacetate
5.0 g (21 mmol) of 4-trifluoromethyl-2-nitrobenzoic acid was dissolved in a mixture of 200 ml of THF and 4.4 ml (31.5 mmol) of triethylamine. 2.6 ml (28 mmol) of ethyl chloroformate was added to the obtained solution under cooling with ice, and they were stirred for 15 minutes. Precipitates thus formed were removed by the suction filtration. A piece of ice was added to the obtained filtrate, and then 1.6 g (42 mmol) of sodium borohydride was added thereto under cooling with ice. The temperature was elevated to room temperature, and the obtained mixture was stirred overnight. After the treatment with ethyl acetate as the extracting solvent by an ordinary method, the obtained crude product was dissolved in 100 ml of dichloromethane. 1.96 ml (25.2 mmol) of methanesulfonyl chloride and 4.4 ml (31.5 mmol) of triethylamine were added to the obtained solution, and they were stirred under cooling with ice for 2 hours. After the treatment with dichloromethane as the extracting solvent, the obtained crude product was dissolved in 100 ml of ethanol. 5.9 g (42 mmol) of glycine ethyl ester hydrochloride and 5.3 g (16.1 mmol) of sodium hydrogencarbonate were added to the obtained solution, and they were stirred at 70□ for 6 hours. The solvent was evaporated. After the extraction with ethyl acetate, the extract was washed with 1 N hydrochloric acid. The obtained aqueous layer was made basic with 1 N sodium hydroxide. After the extraction with ethyl acetate, the obtained organic layer was washed with saturated aqueous sodium chloride solution and then dried. The solvent was evaporated to obtain the title compound.

reactant | 4-trifluoromethyl-2-nitrobenzoic acid | 21 mmol, 5.0 g | FC(C1=CC(=C(C(=O)O)C=C1)[N+](=O)[O-])(F)F | C8H4F3NO4
reactant | triethylamine | 31.5 mmol, 4.4 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 28 mmol, 2.6 ml | ClC(=O)OCC | C3H5ClO2
reactant | sodium borohydride | 42 mmol, 1.6 g | [BH4-].[Na+]
reactant | methanesulfonyl chloride | 25.2 mmol, 1.96 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 31.5 mmol, 4.4 ml | C(C)N(CC)CC | C6H15N
reactant | glycine ethyl ester hydrochloride | 42 mmol, 5.9 g | Cl.C(C)OC(CN)=O
reactant | sodium hydrogencarbonate | 16.1 mmol, 5.3 g | C(O)([O-])=O.[Na+]
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl[2-nitro-4-(trifluoromethyl)benzyl]-aminoacetate | C(C)OC(C(N)CC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-])=O | C12H13F3N2O4
